US08877759B2
Preparation 21. Synthesis of tert-butyl 4-[2-(4-iodo-2-pyridyl)-2-methyl-propanoyl]piperazine-1-carboxylate
2-(4-iodo-2-pyridyl)-2-methyl-propanoic acid (100 mg, 0.3435 mmol) was added to dichloromethane (5 mL) followed by the addition of [benzotriazol-1-yloxy(dimethylamino)methylene]-dimethyl-ammonium tetrafluoroborate (110.3 mg, 0.3435 mmol), diisopropyl ethyl amine (88.79 mg, 119.7 μL, 0.6870 mmol) and tert-butyl piperazine-1-carboxylate (83.18 mg, 0.4466 mmol). Some N,N-dimethylformamide (1 ml) was added to help dissolution. The mixture was stirred at ambient temperature for 1 hour. The mixture was diluted with dichloromethane, washed with water (×2). The extracted organic layer was dried over MgSO4, filtered and concentrated in vacuo to a solid. The residue was purified by column chromatography (ISCO Companion, 80 g column) loaded with dichloromethane and eluted with 100% diethyl ether. Product fractions were combined and concentrated in vacuo to give the sub-title product as an off-white solid (90 mg, 57.03% Yield). LC/MS m/z 460.1 [M+H]+

reactant | 2-(4-iodo-2-pyridyl)-2-methyl-propanoic acid | 0.3435 mmol, 100 mg | IC1=CC(=NC=C1)C(C(=O)O)(C)C | C9H10INO2
reactant | [benzotriazol-1-yloxy(dimethylamino)methylene]-dimethyl-ammonium tetrafluoroborate | 0.3435 mmol, 110.3 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
reactant | diisopropyl ethyl amine | 0.6870 mmol, 119.7 μL, 88.79 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl piperazine-1-carboxylate | 0.4466 mmol, 83.18 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-[2-(4-iodo-2-pyridyl)-2-methyl-propanoyl]piperazine-1-carboxylate | 90 mg, 57.03% Yield | IC1=CC(=NC=C1)C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(C)C | C18H26IN3O3
